US09260414B2
((S)-1-{(S)-2-[4-(4′-Amino-5′-fluoro-2′-trifluoromethyl-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester
A mixture of 4-bromo-2-fluoro-5-(trifluoromethyl)aniline (78 mg, 0.302 mmol) and [(S)-2-methyl-1-((S)-2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester (150 mg, 0.302 mmol) in toluene (0.6 mL, 6 mmol) and water (0.4 mL, 20 mmol) was purged with nitrogen. Potassium carbonate (208.8 g, 1.511 mmol) and tetrakis(triphenylphosphine)-palladium(0) (35 mg, 0.030 mmol) were added under an atmosphere of nitrogen. The reaction mixture was capped and heated at 100° C. overnight, cooled to RT, and partitioned between ethyl acetate (5.0 mL) and water (1.5 mL). The organic layer was dried over sodium sulfate, filtered, and concentrated to give a yellowish oil, which was purified by silica gel chromatography (12 g silica gel, 0-100% EtOAc/hexanes). Desired fractions were combined and concentrated to give the title intermediate as a yellowish solid (128 mg, 77% yield). (m/z): [M+H]+ calcd for C27H24F4N5O3 548.22 found 548.6.

reactant | 4-bromo-2-fluoro-5-(trifluoromethyl)aniline | 0.302 mmol, 78 mg | BrC1=CC(=C(N)C=C1C(F)(F)F)F | C7H4BrF4N
reactant | [(S)-2-methyl-1-((S)-2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester | 0.302 mmol, 150 mg | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C26H37BN4O5
reactant | toluene | 6 mmol, 0.6 mL | C1(=CC=CC=C1)C | C7H8
reactant | water | 20 mmol, 0.4 mL | O | H2O
reactant | Potassium carbonate | 1.511 mmol, 208.8 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.030 mmol, 35 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | ((S)-1-{(S)-2-[4-(4′-Amino-5′-fluoro-2′-trifluoromethyl-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 128 mg, 77% yield | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)C1=C(C=C(C(=C1)F)N)C(F)(F)F)=O | C27H29F4N5O3
